US06605604B1
Step b: 2-[(4-Biphenyl)oxymethyl]-5-(4-oxo-3,4-dihydro-1,2,3-triazin-3-yl)-1-pentene
A mixture of 13.9 mmol (3.72 g) of the product described in the above Step and 20.85 mmol (3.06 g) of 1,2.3-benzotriazin-4-(3H)-one dissolved in tetrahydrofuran (130 ml) is added dropwise to a solution of 20.85 mmol (5.47 g) of triphenylphosphine and 20.85 mmol (4 ml) of diethyl azodicarboxylate in tetrahydrofuran (80 ml) at 0° C. The resulting mixture is stirred for 1 hour at 0° C. then for 12 hours at ambient temperature. The reaction mixture is concentrated and the expected product is obtained by chromatography of the residue on silica gel using an 85:15 petroleum ether/ethyl acetate mixture as eluant.

reactant | 1,2.3-benzotriazin-4-(3H)-one | 20.85 mmol, 3.06 g | N1=NNC(C2=C1C=CC=C2)=O | C7H5N3O
reactant | triphenylphosphine | 20.85 mmol, 5.47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 20.85 mmol, 4 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 2-[(4-Biphenyl)oxymethyl]-5-(4-oxo-3,4-dihydro-1,2,3-triazin-3-yl)-1-pentene | C1(=CC=C(C=C1)OCC(=C)CCCN1N=NC=CC1=O)C1=CC=CC=C1 | C21H21N3O2
